US08058294B2
N-[2-(diethylamino)ethyl]-N-(2-{[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]amino}ethyl)-3-[2-(1-naphthyl)ethoxy]propanamide dihydrochloride
A 37 wt/wt % solution of hydrochloric acid (245.95 μL) was added to a solution of N-[2-(diethylamino)ethyl]-N-(2-{[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]amino}ethyl)-3-[2-(1-naphthyl)ethoxy]propanamide (0.56 g) in methanol (5.6 mL) producing a clear solution that was stirred at room temperature for 15 mins. A 0.5 mL aliquot was taken from the bulk of the solution and treated with diethyl ether to form a mobile solid. This suspension was added back to the solution and the mixture was stirred at room temperature for 2 h. The title compound was then collected by filtration, washed with methanol (1.12 mL) and dried on the filter (0.46 g).

reactant | hydrochloric acid | 245.95 μL | Cl | ClH
reactant | N-[2-(diethylamino)ethyl]-N-(2-{[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]amino}ethyl)-3-[2-(1-naphthyl)ethoxy]propanamide | 0.56 g | C(C)N(CCN(C(CCOCCC1=CC=CC2=CC=CC=C12)=O)CCNCCC1=CC=C(C=2NC(SC21)=O)O)CC | C32H42N4O4S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 5.6 mL | CO | CH4O
product | N-[2-(diethylamino)ethyl]-N-(2-{[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]amino}ethyl)-3-[2-(1-naphthyl)ethoxy]propanamide dihydrochloride | Cl.Cl.C(C)N(CCN(C(CCOCCC1=CC=CC2=CC=CC=C12)=O)CCNCCC1=CC=C(C=2NC(SC21)=O)O)CC | InChI=1S/C32H42N4O4S.2ClH/c1-3-35(4-2)20-21-36(19-18-33-17-14-26-12-13-28(37)30-31(26)41-32(39)34-30)29(38)16-23-40-22-15-25-10-7-9-24-8-5-6-11-27(24)25;;/h5-13,33,37H,3-4,14-23H2,1-2H3,(H,34,39);2*1H
